US05214055
Benzyl N-[1-(benzocyclobuten-1-ylmethyl)-piperid-4-yl]-N-ethylcarbamate hydrochloride was prepared from benzyl N-piperid-4-yl-N-methylcarbamate hydrochloride and 1-iodomethylbenzocyclobutene, in accordance with the process described in Stage C of Example 8, in the presence of triethylamine.

reactant | benzyl N-piperid-4-yl-N-methylcarbamate hydrochloride | Cl.N1CCC(CC1)N(C(OCC1=CC=CC=C1)=O)C
reactant | 1-iodomethylbenzocyclobutene | ICC1CC=2C1=CC=CC2 | C9H9I
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | Benzyl N-[1-(benzocyclobuten-1-ylmethyl)-piperid-4-yl]-N-ethylcarbamate hydrochloride | Yield: 22.5% | Cl.C1(=CC2=C1C=CC=C2)CN2CCC(CC2)N(C(OCC2=CC=CC=C2)=O)CC | InChI=1S/C24H28N2O2.ClH/c1-2-26(24(27)28-18-19-8-4-3-5-9-19)22-12-14-25(15-13-22)17-21-16-20-10-6-7-11-23(20)21;/h3-11,16,22H,2,12-15,17-18H2,1H3;1H
